US04284634
A mixture of diethyl 2-methyl-4-(2-nitrophenyl)-6-formyl-1,4-dihydropyridine-3,5-dicarboxylate (2.03 g), hydroxylamine hydrochloride (417 mg), sodium acetate (861.4 mg) in acetic acid (15 ml) was stirred at room temperature for 30 minutes. Acetic anhydride (1 ml) was added to the reaction mixture, and the mixture was stirred at room temperature for 90 minutes and further refluxed for an hour. The acetic acid was distilled off under reduced pressure, and to the resultant residue was added water, and the aqueous mixture was adjusted to pH 7 to 8 with sodium bicarbonate and extracted with diethyl ether. The extract was washed with water, dried over magnesium sulfate and then concentrated under reduced pressure to give an oil. This oil was subjected to column chromatography on silica gel with an eluent [a mixture of 4 parts of benzene and one part of ethyl acetate by volume]. The resultant oily substance (1.7 g) was crystallized by treating with a mixture of diethyl ether and n-hexane. g These crystals (1.5 g) were recrystallized from a mixture of diethyl ether and n-hexane to give pure crystals (1.23 g) of diethyl 2-methyl-4-(2-nitrophenyl)-6-cyano-1,4-dihydropyridine-3,5-dicarboxylate, mp 126° to 127.5° C.

reactant | diethyl 2-methyl-4-(2-nitrophenyl)-6-formyl-1,4-dihydropyridine-3,5-dicarboxylate | 2.03 g | CC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCC)C=O | C19H20N2O7
reactant | hydroxylamine hydrochloride | 417 mg | Cl.NO
reactant | sodium acetate | 861.4 mg | C(C)(=O)[O-].[Na+]
reactant | Acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | diethyl 2-methyl-4-(2-nitrophenyl)-6-cyano-1,4-dihydropyridine-3,5-dicarboxylate | 1.23 g | CC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCC)C#N | C19H19N3O6
